Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]=[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]#[C:2][C:12]([H:13])([H:14])[H:15].[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],4.321969173119999
[H:1][O:2][C:3][C:5]([H:6])[O:7][C:8]([H:9])[H:10].[H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10],-4.51196046263
[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-3.6990126028
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:1]=[C:2]([H:3])[H:4].[O:5]=[C:6]([H:7])[C:8]([H:9])[H:10],-0.14686970512
[H:1][C:2]#[C:3][C:4]([O:5][H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]#[C:3][C:4]([O:5][H:6])([O:7][H:8])[C:9]([H:10])[H:11],4.64893230109
[H:1][O:2][C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][O:4][C:5]#[C:6],5.60693585918
[C:4]([H:5])[H:6].[H:1][O:2][C:3][C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-7.172759524430001
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],4.97209962635
[H:1][C:2].[O:3][C:4]#[C:5][H:6]>>[H:1][C:2][O:3][C:4]#[C:5][H:6],-4.13047333512
[C:6]#[C:7][H:8].[O:1][O:2][C:3]([H:4])[H:5]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],-4.63813805372
[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:9]([H:10])([H:11])[H:12].[O:7][H:8]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-5.287398592380001
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9]>>[C:1]=[C:2]1[O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9]1,-2.02281928067
[H:1][O:2]/[C:3](=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.91859966008
[H:11].[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-3.0731093574
[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-1.40971735993
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]=[C:10]([H:11])[H:12].[H:9],5.1335084829
[C:1]#[C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])=[O:7].[H:8],3.26286048038
[H:10].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])[H:9]>>[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-4.061435842930003
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.64902854032
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])([H:5])=[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],2.80493199598
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:4]([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:3],5.13215674064
[H:1].[O:2]=[C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])[H:5],-1.66967084085
[H:5].[O:1]=[C:2]=[C:3]([H:4])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.80364780806
[H:1][C:2]#[C:3][O:5]/[C:6]([H:7])=[C:8]/[O:9][H:10].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:9][H:10],-2.17930891577
[O:1]=[C:2]([C:3][O:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:5][H:6].[O:1][C:2](=[C:3]=[O:4])[C:7]([H:8])([H:9])[H:10],2.55528011119
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-2.08463270539
[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-4.62207342032
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:3],3.96823102734
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C@:4]1([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.1483449091499999
[H:1][O:2][C:3][C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3][C@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],4.28597162678
